US08802679B2
NaH (230 mg) was suspended in DMF (10 ml), and a solution of 5-bromopyrimidine-2-amine in DMF (5 ml) and a solution of cyclohexyl isocyanate (791 mg) in DMF (5 ml) were added dropwise thereto in this order under ice-cooling, followed by stirring at the same temperature for 30 minutes. The obtained solid was collected by filtration and washed with diethyl ether to obtain 1-(5-bromopyrimidin-2-yl)-3-cyclohexylurea (1.47 g).

reactant | NaH | 230 mg | [H-].[Na+]
reactant | 5-bromopyrimidine-2-amine | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | cyclohexyl isocyanate | 791 mg | C1(CCCCC1)N=C=O | C7H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(5-bromopyrimidin-2-yl)-3-cyclohexylurea | 1.47 g | BrC=1C=NC(=NC1)NC(=O)NC1CCCCC1 | C11H15BrN4O
